US08461328B2
Fmoc-Cl (3.16 g, 12.2 mmol) was added to a solution of crude (1-benzenesulfonyl-5-nitro-1H-pyrrolo[2,3-b]pyridin-4-yl)-piperidin-3-yl-amine hydrochloride (5.34 g, 12.2 mmol) and diisopropylethylamine (5.31 ml, 30.5 mmol) in CH2Cl2 (100 ml) at 0° C. The reaction mixture was warmed to 25° C. and stirred for 18 h, then was partitioned between half-saturated NaHCO3 (225 ml) and CH2Cl2 (2×200 ml). The combined organic layers were dried over MgSO4, filtered, and the filtrate was concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (gradient: 0 to 70% EtOAc in heptanes) to afford 3-(1-benzenesulfonyl-5-nitro-1H-pyrrolo[2,3-b]pyridin-4-ylamino)-piperidine-1-carboxylic acid 9H-fluoren-9-ylmethyl ester (7.09 g, 93%) as a yellow solid. This material was used in the next step below without additional characterization or purification.

reactant | Fmoc-Cl | 12.2 mmol, 3.16 g | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)Cl | C15H11ClO2
reactant | (1-benzenesulfonyl-5-nitro-1H-pyrrolo[2,3-b]pyridin-4-yl)-piperidin-3-yl-amine hydrochloride | 12.2 mmol, 5.34 g | Cl.C1(=CC=CC=C1)S(=O)(=O)N1C=CC=2C1=NC=C(C2NC2CNCCC2)[N+](=O)[O-]
reactant | diisopropylethylamine | 30.5 mmol, 5.31 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
product | 3-(1-benzenesulfonyl-5-nitro-1H-pyrrolo[2,3-b]pyridin-4-ylamino)-piperidine-1-carboxylic acid 9H-fluoren-9-ylmethyl ester | 7.09 g, 93% | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N1CC(CCC1)NC1=C2C(=NC=C1[N+](=O)[O-])N(C=C2)S(=O)(=O)C2=CC=CC=C2 | C33H29N5O6S
